US06617339B1
1-(4-Ethoxycarbonylaminophenyl)pyrrole
Ethyl chloroforrnate (0.38 ml) was added dropwisc to a stirred solution of 1-(4-aminophenyl)pyrrole (0.56 g, 3.54 mmol , Corelli et al., Farmaco. Ed. Sci., 1983, 38, 219) in pyridine (5 ml) at 5-10° C. for 15 minutes. The cooling bath was removed and stirring continued for 1.5 hours. The mixture was evaporated and the residue was purified by flash column chromatography on silica gel, eluting with a gradient of 1-4% MeOH in dichloromethane to give the title product (0.43 g) as a solid.

reactant | Ethyl chloroforrnate | 0.38 ml | ClC(=O)OCC | C3H5ClO2
reactant | 1-(4-aminophenyl)pyrrole | 3.54 mmol, 0.56 g | NC1=CC=C(C=C1)N1C=CC=C1 | C10H10N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Ethoxycarbonylaminophenyl)pyrrole | 0.43 g | C(C)OC(=O)NC1=CC=C(C=C1)N1C=CC=C1 | C13H14N2O2
